2160-05-03 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2160-5-3**] 05:38 AM
   Placed prior to admission confirmed by X-ray
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Levofloxacin - [**2160-5-3**] 04:15 AM
   Vancomycin - [**2160-5-3**] 06:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-3**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 90 (90 - 96) bpm
   BP: 127/68(81) {119/53(72) - 133/68(81)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             385 mL
   PO:
             TF:
   IVF:
   385 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   Physical Examination
   General: Alert, no acute distress, intermittently cooperative.
   HEENT: Sclera anicteric, dry MMM, oropharynx clear. B/L periorbital
   ecchymoses, appear old. R.periorbital area with larger involvement.
   Neck: supple, JVP not elevated, no LAD. Trach in place, C/D/I
   Lungs: coarse breath sounds b/l/transmitted upper airway noise. NO w/c.
   CV: Regular rate and rhythm, normal S1 + S2 [**3-31**] harsh distolic murmur
   loudest at apex. No r/g.
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+edema
   LUE.
   neuro: unable to assess for orienation, not verbal. Shakes head no to
   having pain. Able to squeeze R.hand to command. DId not move toes/feet
   to command. Did not move LUE to command. No tremor.
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   Assessment and Plan: This is an 88 y.o female with h.o recent fall, SDH
   and neurosurgical procedure who presents with AMS.
   .
   #altered mental status- Unclear of pt's baseline. Pt recently admitted
   and discharged from the neurosurgical service for SDH, evacuation, then
   eventually trach and peg and discharge to rehab. Pt reportedly oriented
   to self, yr and location and able to follow simple commands. Of note,
   pt given a fluroquinolone for a suspected UTI. Etiologies could include
   structural/anatomic from a new/worsened or known SDH, however neurosurg
   states that her bleeds are stable, stroke or seizure, however the
   neurology consult service feels that this is not the case. Infection
   such as meningitis, UTI, PNA, etc are also possibilities. In terms of
   meningitis, neurology did not feel that an LP was indicated. Other
   possibilities include toxic metabolic. Pt with hyponatremia on lab
   findings. ACS is also a possibility, however there was a troponin bump
   in the absence of EKG changes and clinical symptoms.
   -neurosurg recs
   -neuro recs including: avoid fluroquinolones, obtain EEG, continue
   Kerrpa and dilantin, consider R.hip xr.
   -pan cx including bcx, ua and cx, sputum, stool
   -trend wbc count and fever curve.
   -ctx/vanco/ampicillin for now, will likely wean tomorrow.
   -follow up final head CT read
   -serial neuro exams.
   -OSH records/[**Hospital1 **]
   -BP control, INR/platlet count WNL.
   .
   #hyponatremia-likely secondary to hypovolemia/dehydration. Other
   possibilities include SIADH given recent head trauma. No clear signs of
   CHF/liver dx/renal dx at this time.
   -[**Hospital1 **] lytes
   -ulytes
   -IVF nS 1L for now.
   .
   #HTN-continue home regimen for now.
   .
   #elevated troponin-Pt without reported EKG changes. Pt without overt
   symptoms. Recent Trop 0.15 on [**4-21**] now .23. Cardiology consulted in the
   ED, suggested ASA without further intervention at this time.
   -EKG
   -tele
   -ROMI
   -continue asa/bb
   -echo
   .
   #h.o R.olecranon fx-will obtain plain films.
   .
   #hypothyroid-continue outpt synthroid dosing.
   .
   # FEN: tube feeds with Jevity.
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, bowel reg, PPI
   .
   # Access: peripheral IV, subclavian line-in place prior to transfer.
   .
   # Code: presumed full, given recent trach/peg.
   .
   # Communication: Patient-not reliable will have to obtain info.
   [**Hospital3 **]-[**Location (un) 698**] ([**Telephone/Fax (1) 5877**])
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-3**] 05:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-05-03 10:01:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: SDH, ? of altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2160-5-3**] 05:38 AM
   Placed prior to admission confirmed by X-ray
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Levofloxacin - [**2160-5-3**] 04:15 AM
   Vancomycin - [**2160-5-3**] 06:21 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Pain: Unable to answer
   Flowsheet Data as of  [**2160-5-3**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 88 (88 - 96) bpm
   BP: 130/63(78) {119/53(72) - 133/68(81)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             770 mL
   PO:
             TF:
   IVF:
   710 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    650 mL
   Urine:
   650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.8 g/dL
   483 K/uL
   32.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2160-5-3**]  07:20 AM
   WBC
   8.2
   Hct
   32.4
   Plt
   483
   Other labs: PT / PTT / INR:13.0/26.8/1.1, Differential-Neuts:65.5 %,
   Lymph:22.8 %, Mono:6.7 %, Eos:4.5 %
   Assessment and Plan
   88F recent fall, SDH and neurosurgical procedure sent in from rehab w/
   concern for change in mental status.
   #altered mental status
   -after discussion with family, patient is clearly at her baseline.
   Confusion appears to have originated with a discharge summary which
   noted the patient as AAOx3 which was not the case at discharge per
   family
   -since patient is at baseline, does not need LP (as confirmed by neuro)
   and can d/c abx
   -f/u on head CT
   -neuro and neurosurg following
   #hyponatremia
   -? hypovolemia/dehydration vs. SIADH given recent head trauma
   -[**Hospital1 **] lytes
   #HTN
   -continue home regimen for now.
   #elevated troponin
   -Trop elevation without EKG changes
   -tele
   -ROMI
   -continue asa/bb
   #hypothyroid
   -continue outpt synthroid dosing
   # FEN:
   -tube feeds with Jevity.
   # Prophylaxis:
   -subcutaneous heparin
   -pneumoboots
   -bowel reg, PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-3**] 05:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2160-05-04 06:49:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   Confirmed DNR/DNI code status. Would consider short term intubation if
   reversible. Family confirmed that patient is essentially at baseline.
   Echo shows new inferior wall motion abnormality and increased MR
   EEG concerning for epileptiform activity on L side. All prior surgeries
   etc were on the right side. Given fever in ED and new epileptiform
   activity on left, concern for meningitis.  Neurosurgery does not want
   to perform LP given midline shift on CT and mass effect.  Decided on
   obtaining MR of brain to assess for enhancement.  No empiric abx were
   started.
   -reloaded patient with dilantin IV [**5-3**] evening.
   -restart dilantin 300mg po qd in AM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Levofloxacin - [**2160-5-3**] 04:15 AM
   Vancomycin - [**2160-5-3**] 09:06 PM
   Ampicillin - [**2160-5-3**] 10:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-4**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 79 (71 - 88) bpm
   BP: 123/63(78) {69/20(32) - 130/67(83)} mmHg
   RR: 26 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,939 mL
                                                                    276 mL
   PO:
             TF:
                                                                     89 mL
                                                                    158 mL
   IVF:
                                                                  1,680 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    300 mL
   Urine:
                                                                  2,030 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -91 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100% on 35% aerosol mask
   ABG: ///29/
   Physical Examination
   General: Alert, no acute distress, intermittently cooperative.
   HEENT: Sclera anicteric, dry MMM, oropharynx clear. B/L periorbital
   ecchymoses, appear old. R.periorbital area with larger involvement.
   Neck: supple, JVP not elevated, no LAD. Trach in place, C/D/I
   Lungs: coarse breath sounds b/l/transmitted upper airway noise. NO w/c.
   CV: Regular rate and rhythm, normal S1 + S2 [**3-31**] harsh distolic murmur
   loudest at apex. No r/g.
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+edema
   LUE.
   neuro: unable to assess for orienation, not verbal. Shakes head no to
   having pain. Able to squeeze R.hand to command. DId not move toes/feet
   to command. Did not move LUE to command. No tremor.
   Labs / Radiology
   483 K/uL
   11.4 g/dL
   113 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   14 mg/dL
   92 mEq/L
   129 mEq/L
   34.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2160-5-3**]  07:20 AM
                             [**2160-5-3**]  03:42 PM
                             [**2160-5-4**]  12:01 AM
                             [**2160-5-4**]  05:11 AM
   WBC
   8.2
   9.1
   Hct
   32.4
   34.3
   Plt
   483
   483
   Cr
   0.5
   0.5
   0.5
   TropT
   0.18
   0.20
   0.18
   Glucose
   92
   104
   113
   Other labs: PT / PTT / INR:13.1/25.3/1.1, CK / CKMB /
   Troponin-T:44//0.18, ALT / AST:61/80, Alk Phos / T Bili:117/0.5,
   Differential-Neuts:65.5 %, Lymph:22.8 %, Mono:6.7 %, Eos:4.5 %,
   Albumin:2.9 g/dL, LDH:300 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Imaging: Hip x-ray: unchanged
   CXR: no infiltrates
   [**5-3**] head CT
   1. Essentially unchanged appearance of large medial right frontal lobe
   parenchymal hemorrhage and small right subdural hemorrhage (now
   evolved), with
   similar degree of leftward shift.
   2. Decrease in size of subgaleal right frontal collection.
   Microbiology: Blood cultures x3 pending
   Urine cultures x2 pending
   Assessment and Plan
   This is an 88 y.o female with h.o recent fall, SDH and neurosurgical
   procedure who presents with AMS.
   .
   #altered mental status- Per family, patient is currently at baseline
   mental status. Pt recently admitted and discharged from the
   neurosurgical service for SDH, evacuation, then eventually trach and
   peg and discharge to rehab. Pt reportedly oriented to self, yr and
   location and able to follow simple commands. Of note, pt given a
   fluroquinolone for a suspected UTI. Etiologies could include
   structural/anatomic from a new/worsened or known SDH, however neurosurg
   states that her bleeds are stable. EEG shows ongoing epileptiform
   activity of L side. Prior SDH on right.  Concern that infection causing
   new pattern of seizure activity.  Neurosurgery hesitant to perform LP
   given mass effect.  MRI suggested to eval for enhancement.  Restarted
   empiric abx for bacterial meningitis: Ceftriaxone, Vancomycin,
   Ampicillin.   stroke or seizure, however the neurology consult service
   feels that this is not the case. Infection such as meningitis, UTI,
   PNA, etc are also possibilities. In terms of meningitis, neurology did
   not feel that an LP was indicated. Other possibilities include toxic
   metabolic. Pt with hyponatremia on lab findings. ACS is also a
   possibility, however there was a troponin bump in the absence of EKG
   changes and clinical symptoms.
   -neurosurg recs
   -neuro recs including: avoid fluroquinolones, obtain EEG, continue
   Kerrpa and dilantin, consider R.hip xr.
   -pan cx including bcx, ua and cx, sputum, stool
   -trend wbc count and fever curve.
   -ctx/vanco/ampicillin for now, will likely wean tomorrow.
   -follow up final head CT read
   -serial neuro exams.
   -OSH records/[**Hospital1 **]
   -BP control, INR/platlet count WNL.
   .
   #hyponatremia-likely secondary to hypovolemia/dehydration. Other
   possibilities include SIADH given recent head trauma. No clear signs of
   CHF/liver dx/renal dx at this time.
   -[**Hospital1 **] lytes
   -ulytes
   -IVF nS 1L for now.
   .
   #HTN-continue home regimen for now.
   .
   #elevated troponin-Pt without reported EKG changes. Pt without overt
   symptoms. Recent Trop 0.15 on [**4-21**] now .23. Cardiology consulted in the
   ED, suggested ASA without further intervention at this time.
   -EKG
   -tele
   -ROMI
   -continue asa/bb
   -echo
   .
   #h.o R.olecranon fx-will obtain plain films.
   .
   #hypothyroid-continue outpt synthroid dosing.
   .
   # FEN: tube feeds with Jevity.
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, bowel reg, PPI
   .
   # Access: peripheral IV, subclavian line-in place prior to transfer.
   .
   # Code: presumed full, given recent trach/peg.
   .
   # Communication: Patient-not reliable will have to obtain info.
   [**Hospital3 **]-[**Location (un) 698**] ([**Telephone/Fax (1) 5877**])
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2160-5-3**] 05:16 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-3**] 05:38 AM
   20 Gauge - [**2160-5-3**] 10:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-05-04 11:24:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: SDH, ? NCSE
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - EEG
   - no change in exam
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Levofloxacin - [**2160-5-3**] 04:15 AM
   Vancomycin - [**2160-5-4**] 08:00 AM
   Ampicillin - [**2160-5-4**] 09:30 AM
   Ceftriaxone - [**2160-5-4**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-4**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 79 (71 - 91) bpm
   BP: 102/46(60) {69/20(32) - 126/66(78)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,939 mL
                                                                  1,060 mL
   PO:
             TF:
                                                                     89 mL
                                                                    319 mL
   IVF:
                                                                  1,680 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  2,030 mL
                                                                    400 mL
   Urine:
                                                                  2,030 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -91 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Rt periorbital ecchymosis
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   483 K/uL
   113 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   14 mg/dL
   92 mEq/L
   129 mEq/L
   34.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2160-5-3**]  07:20 AM
                             [**2160-5-3**]  03:42 PM
                             [**2160-5-4**]  12:01 AM
                             [**2160-5-4**]  05:11 AM
   WBC
   8.2
   9.1
   Hct
   32.4
   34.3
   Plt
   483
   483
   Cr
   0.5
   0.5
   0.5
   TropT
   0.18
   0.20
   0.18
   Glucose
   92
   104
   113
   Other labs: PT / PTT / INR:13.1/25.3/1.1, CK / CKMB /
   Troponin-T:44//0.18, ALT / AST:61/80, Alk Phos / T Bili:117/0.5,
   Differential-Neuts:65.5 %, Lymph:22.8 %, Mono:6.7 %, Eos:4.5 %,
   Albumin:2.9 g/dL, LDH:300 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   88F recent fall, SDH and neurosurgical procedure sent in from rehab w/
   concern for change in mental status.
    #altered mental status
   -after discussion with family, patient is clearly at her baseline.
   Confusion appears to have originated with a discharge summary which
   noted the patient as AAOx3 which was not the case at discharge per
   family
   -EEG done yesterday raises question of seizure
   -given recent surgical procedure/evidence of some shift NS strongly
   recommending against LP
   -MRI today to assess for mening enhancement (though given recent SDH
   and surgery will almost certainly have at least some focal enhancement)
   -abx restarted for ? meningitis
   -neuro and neurosurg following
   -? adjust anti-sz meds given activity despite current regimen d/w neuro
   #hyponatremia
   -? hypovolemia/dehydration vs. SIADH given recent head trauma
   -[**Hospital1 **] lytes
   #HTN
   -continue home regimen for now.
    #elevated troponin
   -Trop elevation without EKG changes
   -tele
   -ruled out for MI
   -continue asa/bb
    #hypothyroid
   -continue outpt synthroid dosing
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2160-5-4**] 07:35 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-3**] 05:38 AM
   20 Gauge - [**2160-5-3**] 10:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2160-05-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   This is an 88 y.o female with h.o recent fall, SDH and neurosurgical
   procedure who presents with AMS
   -Pt. found to have encephalopathy on EEG
   -Awaiting MRI of head prior to resuming EEG
   -Gave 200mg Dilantin dose IV and sent for free dilantin and dilantin
   levels tomorrow AM as per Neuro recs.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Levofloxacin - [**2160-5-3**] 04:15 AM
   Vancomycin - [**2160-5-4**] 08:00 AM
   Ampicillin - [**2160-5-4**] 09:30 AM
   Ceftriaxone - [**2160-5-4**] 10:00 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2160-5-4**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-5**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 84 (78 - 97) bpm
   BP: 107/54(67) {99/46(60) - 128/72(83)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,674 mL
                                                                    290 mL
   PO:
             TF:
                                                                    611 mL
                                                                    171 mL
   IVF:
                                                                    623 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                    800 mL
                                                                    295 mL
   Urine:
                                                                    800 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    874 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General: Alert, no acute distress, intermittently cooperative.
   HEENT: Sclera anicteric, dry MMM, oropharynx clear. B/L periorbital
   ecchymoses, appear old. R.periorbital area with larger involvement.
   Neck: supple, JVP not elevated, no LAD. Trach in place, C/D/I
   Lungs: coarse breath sounds b/l/transmitted upper airway noise. NO w/c.
   CV: Regular rate and rhythm, normal S1 + S2 [**3-31**] harsh distolic murmur
   loudest at apex. No r/g.
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+edema
   LUE.
   neuro: unable to assess for orienation, not verbal. Shakes head no to
   having pain. Able to squeeze R.hand to command. DId not move toes/feet
   to command. Did not move LUE to command. No tremor.
   Labs / Radiology
   540 K/uL
   11.3 g/dL
   140 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   12 mg/dL
   93 mEq/L
   128 mEq/L
   33.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2160-5-3**]  07:20 AM
                             [**2160-5-3**]  03:42 PM
                             [**2160-5-4**]  12:01 AM
                             [**2160-5-4**]  05:11 AM
                             [**2160-5-4**]  04:58 PM
                             [**2160-5-5**]  02:52 AM
   WBC
   8.2
   9.1
   8.3
   Hct
   32.4
   34.3
   33.0
   Plt
   483
   483
   540
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   0.18
   0.20
   0.18
   Glucose
   92
   104
   113
   117
   140
   Other labs: PT / PTT / INR:12.7/25.6/1.1, CK / CKMB /
   Troponin-T:44//0.18, ALT / AST:61/80, Alk Phos / T Bili:117/0.5,
   Differential-Neuts:65.5 %, Lymph:22.8 %, Mono:6.7 %, Eos:4.5 %,
   Albumin:2.9 g/dL, LDH:300 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   88F recent fall, SDH and neurosurgical procedure sent in from rehab w/
   concern for change in mental status.
    #altered mental status
   -after discussion with family, patient is clearly at her baseline.
   Confusion appears to have originated with a discharge summary which
   noted the patient as AAOx3 which was not the case at discharge per
   family
   -EEG done yesterday raises question of seizure
   -given recent surgical procedure/evidence of some shift NS strongly
   recommending against LP
   -MRI today to assess for mening enhancement (though given recent SDH
   and surgery will almost certainly have at least some focal enhancement)
   -abx restarted for ? meningitis
   -neuro and neurosurg following
   -? adjust anti-sz meds given activity despite current regimen d/w neuro
   #hyponatremia
   -? hypovolemia/dehydration vs. SIADH given recent head trauma
   -[**Hospital1 **] lytes
   #HTN
   -continue home regimen for now.
    #elevated troponin
   -Trop elevation without EKG changes
   -tele
   -ruled out for MI
   -continue asa/bb
    #hypothyroid
   -continue outpt synthroid dosing
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2160-5-4**] 11:43 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-5-3**] 05:38 AM
   20 Gauge - [**2160-5-4**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-05-06 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2160-5-5**] 03:48 PM
 MULTI LUMEN - STOP [**2160-5-5**] 04:22 PM
   Placed prior to admission confirmed by X-ray
   -D/c'd antibiotics
   -rehab screening
   -L UE xRay: final read pending, but no obvious fx
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Unspecified [**Doctor First Name **]
   Last dose of Antibiotics:
   Vancomycin - [**2160-5-5**] 08:04 AM
   Ceftriaxone - [**2160-5-5**] 08:53 AM
   Ampicillin - [**2160-5-5**] 10:04 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2160-5-6**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-5-6**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 87 (81 - 99) bpm
   BP: 133/73(87) {99/50(62) - 173/97(112)} mmHg
   RR: 26 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  1,280 mL
                                                                    273 mL
   PO:
                  TF:
                                                                    637 mL
                                                                    273 mL
   IVF:
                                                                    592 mL
   Blood products:
   Total out:
                                                                  1,025 mL
                                                                    295 mL
   Urine:
                                                                  1,025 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General: Alert, no acute distress, intermittently cooperative.
   HEENT: Sclera anicteric, dry MMM, oropharynx clear. B/L periorbital
   ecchymoses, appear old. R.periorbital area with larger involvement.
   Neck: supple, JVP not elevated, no LAD. Trach in place, C/D/I
   Lungs: coarse breath sounds b/l/transmitted upper airway noise. NO w/c.
   CV: Regular rate and rhythm, normal S1 + S2 [**3-31**] harsh distolic murmur
   loudest at apex. No r/g.
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+edema
   LUE.
   neuro: unable to assess for orienation, not verbal. Shakes head no to
   having pain. Able to squeeze R.hand to command. DId not move toes/feet
   to command. Did not move LUE to command. No tremor.
   Labs / Radiology
   527 K/uL
   10.8 g/dL
   109 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   94 mEq/L
   128 mEq/L
   32.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2160-5-3**]  07:20 AM
                             [**2160-5-3**]  03:42 PM
                             [**2160-5-4**]  12:01 AM
                             [**2160-5-4**]  05:11 AM
                             [**2160-5-4**]  04:58 PM
                             [**2160-5-5**]  02:52 AM
                             [**2160-5-6**]  04:00 AM
   WBC
   8.2
   9.1
   8.3
   10.1
   Hct
   32.4
   34.3
   33.0
   32.7
   Plt
   483
   483
   540
   527
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TropT
   0.18
   0.20
   0.18
   Glucose
   92
   104
   113
   117
   140
   109
   Other labs: PT / PTT / INR:12.2/24.5/1.0, CK / CKMB /
   Troponin-T:44//0.18, ALT / AST:61/80, Alk Phos / T Bili:117/0.5,
   Differential-Neuts:65.5 %, Lymph:22.8 %, Mono:6.7 %, Eos:4.5 %,
   Albumin:2.9 g/dL, LDH:300 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   88F recent fall, SDH and neurosurgical procedure sent in from rehab w/
   concern for change in mental status.
   # Altered mental status: currently at baseline. Etiology for acute
   change is most likely seizure (based on EEG; currently on phenytoin).
   EEG looks improved (per Neuro) with phenytoin and levitiracetam. Will
   dose phenytoin to keep level>10 (corrected for albumin). UCx negative;
   BCx NGTD. SDH stable per NSurg. MRI head with evolving but not
   expanding hematoma. Antibiotics d/ced yesterday.
   # Hypovolemic hyponatremia: Stable. U lytes inconsistent with SIADH.
   # HTN
   -continue home regimen for now.
   # elevated troponin (stable), normal CK, no ECG change, asymptomatic:
   unlikely ACS
   # hypothyroid
   -continue outpt synthroid
   # Access: concerned for coiled PICC line (after pulling multilumen).
   Discuss with IV RN for possible replacement.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2160-5-6**] 03:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-5-4**] 12:00 PM
   PICC Line - [**2160-5-5**] 03:48 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: